US06743939B2
a) 1-(2-Pyridinyl)-1,4-butanediol
i-Propyl magnesium chloride (11.6 ml, 2M in tetrahydrofuran) was added dropwise to a solution of 3-chloropropanol (2.1 g) in tetrahydrofuran (20 ml) at 0° C. Magnesium turnings (0.8 g) and 1,2-dibromoethane (1 drop) were added and the mixture was refluxed for 5hand then added at 0° C. to a solution of pyridine-2-carboxaldehyde (1.3 g) in tetrahydrofuran (10 ml). The mixture was quenched with aqueous ammonium chloride and basified to pH 9 with aqueous potassium carbonate. Extraction with ethyl acetate and then extraction of the residual inorganics with methanol, followed by evaporation and purification by chromatography on silica eluting with dichloromethane—2M ammonia gave the sub-title compound as a brown oil (1.1 g).

reactant | i-Propyl magnesium chloride | 2M, 11.6 ml | C(C)(C)[Mg]Cl
reactant | 3-chloropropanol | 2.1 g | ClCCCO | C3H7ClO
reactant | Magnesium | 0.8 g | [Mg] | Mg
reactant | pyridine-2-carboxaldehyde | 1.3 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | 1 drop | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2-Pyridinyl)-1,4-butanediol | 1.1 g | N1=C(C=CC=C1)C(CCCO)O | C9H13NO2
